// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 1067
// View name: schematic
M31 (net61 VCLK7 VSS VSS) nmos4
M30 (net31 VCLK8 net58 VSS) nmos4
M29 (net58 VCLK7 net27 VSS) nmos4
M28 (net31 net57 net59 VSS) nmos4
M27 (net59 net55 net27 VSS) nmos4
M26 (net31 VCLK8 net60 VSS) nmos4
M25 (net60 net55 VSS VSS) nmos4
M24 (net31 net57 net61 VSS) nmos4
M23 (net65 VCLK5 VSS VSS) nmos4
M22 (net27 VCLK6 net62 VSS) nmos4
M21 (net62 VCLK5 net22 VSS) nmos4
M20 (net27 net51 net63 VSS) nmos4
M19 (net63 net49 net22 VSS) nmos4
M18 (net27 VCLK6 net64 VSS) nmos4
M17 (net64 net49 VSS VSS) nmos4
M16 (net27 net51 net65 VSS) nmos4
M15 (net69 VCLK3 VSS VSS) nmos4
M14 (net22 VCLK4 net66 VSS) nmos4
M13 (net66 VCLK3 net17 VSS) nmos4
M12 (net22 net45 net67 VSS) nmos4
M11 (net67 net43 net17 VSS) nmos4
M10 (net22 VCLK4 net68 VSS) nmos4
M9 (net68 net43 VSS VSS) nmos4
M8 (net22 net45 net69 VSS) nmos4
M7 (net17 VCLK2 net70 VSS) nmos4
M6 (net70 VCLK1 VDD VSS) nmos4
M5 (net17 net39 net71 VSS) nmos4
M4 (net71 net37 VDD VSS) nmos4
M3 (net17 VCLK2 net72 VSS) nmos4
M2 (net72 net37 VSS VSS) nmos4
M1 (net17 net39 net73 VSS) nmos4
M0 (net73 VCLK1 VSS VSS) nmos4
I9 (net33 VOUT1 VDD VSS) INVERTER
I8 (net31 net33 VDD VSS) INVERTER
I7 (VCLK8 net57 VDD VSS) INVERTER
I6 (VCLK7 net55 VDD VSS) INVERTER
I5 (VCLK6 net51 VDD VSS) INVERTER
I4 (VCLK5 net49 VDD VSS) INVERTER
I3 (VCLK4 net45 VDD VSS) INVERTER
I2 (VCLK3 net43 VDD VSS) INVERTER
I1 (VCLK2 net39 VDD VSS) INVERTER
I0 (VCLK1 net37 VDD VSS) INVERTER
M32 (net31 net33 VDD VDD) pmos4