// Library name: tutorial_test
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: tutorial_test
// Cell name: TRANSMISSION_GATE
// View name: schematic
subckt TRANSMISSION_GATE A B C VDD VSS
    M1 (A C B VSS) nmos4
    M13 (A net9 B VDD) pmos4
    I0 (C net9 VDD VSS) INVERTER
ends TRANSMISSION_GATE
// End of subcircuit definition.

// Library name: tutorial_test
// Cell name: 400
// View name: schematic
M11 (IB2 net032 IB3 VSS) nmos4
M8 (IB1 net034 IB3 VSS) nmos4
M5 (net8 VB3 VSS VSS) nmos4
M4 (net033 VB2 net8 VSS) nmos4
M9 (IB2 net52 IB4 VSS) nmos4
M3 (net9 VB3 VSS VSS) nmos4
M1 (net035 VB2 net9 VSS) nmos4
M10 (IB1 net55 IB4 VSS) nmos4
I15 (net033 net032 VCLK2 VDD VSS) TRANSMISSION_GATE
I14 (net035 net034 VCLK2 VDD VSS) TRANSMISSION_GATE
I13 (VCM1 net55 VCLK2 VDD VSS) TRANSMISSION_GATE
I12 (VCM1 net52 VCLK2 VDD VSS) TRANSMISSION_GATE
I11 (VIN1 net52 VCLK1 VDD VSS) TRANSMISSION_GATE
I10 (VIN2 net55 VCLK1 VDD VSS) TRANSMISSION_GATE
M2 (net035 VB1 IB1 VDD) pmos4
M0 (net033 VB1 IB2 VDD) pmos4
C0 (net032 VSS) capacitor
C2 (net034 VSS) capacitor