// Library name: Dataset
// Cell name: XOR
// View name: schematic
subckt XOR A B VDD VSS Y
    M4 (Y A B VDD) pmos4
    M2 (Y B A VDD) pmos4
    M0 (net8 A VDD VDD) pmos4
    M5 (Y net8 B VSS) nmos4
    M3 (Y B net8 VSS) nmos4
    M1 (net8 A VSS VSS) nmos4
ends XOR
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 438
// View name: schematic
I0 (VIN1 VOUT2 VDD VSS net20) XOR
R0 (net20 net7) resistor
C0 (net7 VSS) capacitor
M1 (VOUT2 VOUT1 IB1 VSS) nmos4
M0 (VOUT1 VOUT2 IB1 VSS) nmos4
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
D1 (net7 VOUT2) diode
D0 (net7 VOUT1) diode