// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: NAND
// View name: schematic
subckt NAND A B Q VDD VSS
    M1 (Q B VDD VDD) pmos4
    M0 (Q A VDD VDD) pmos4
    M3 (net10 B VSS VSS) nmos4
    M2 (Q A net10 VSS) nmos4
ends NAND
// End of subcircuit definition.

// Library name: Dataset
// Cell name: NOR
// View name: schematic
subckt NOR A B Q VDD VSS
    M1 (Q A net5 VDD) pmos4
    M0 (net5 B VDD VDD) pmos4
    M3 (Q B VSS VSS) nmos4
    M2 (Q A VSS VSS) nmos4
ends NOR
// End of subcircuit definition.

// Library name: Dataset
// Cell name: PFD
// View name: schematic
subckt PFD A B QA QB VDD VSS
    I0 (QA QB net65 VDD VSS) NAND
    I1 (net65 net50 VDD VSS) INVERTER
    I9 (net61 net63 QB VDD VSS) NOR
    I8 (B QB net61 VDD VSS) NOR
    I7 (net63 net50 net62 VDD VSS) NOR
    I6 (net61 net62 net63 VDD VSS) NOR
    I5 (net48 net50 net55 VDD VSS) NOR
    I4 (net47 net55 net48 VDD VSS) NOR
    I3 (net47 net48 QA VDD VSS) NOR
    I2 (A QA net47 VDD VSS) NOR
ends PFD
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 440
// View name: schematic
I1 (net36 net35 VDD VSS) INVERTER
M5 (net31 VSS net34 VDD) pmos4
M1 (VCONT1 net35 net38 VDD) pmos4
M0 (net38 VB2 VDD VDD) pmos4
M6 (net34 VDD net31 VSS) nmos4
M3 (net37 VB1 VSS VSS) nmos4
M2 (VCONT1 net31 net37 VSS) nmos4
C0 (VCONT1 VSS) capacitor
I0 (LOGICA1 LOGICB1 net36 net34 VDD VSS) PFD