// Library name: tutorial_test
// Cell name: XOR
// View name: schematic
subckt XOR A B VDD VSS Y
    M4 (Y B net06 VSS) nmos4
    M0 (net06 A VSS VSS) nmos4
    M6 (Y net06 B VSS) nmos4
    M5 (Y B A VDD) pmos4
    M1 (net06 A VDD VDD) pmos4
    M13 (Y A B VDD) pmos4
ends XOR
// End of subcircuit definition.

// Library name: tutorial_test
// Cell name: 545
// View name: schematic
M1 (net8 VOUT1 net8 VSS) nmos4
M4 (net8 VOUT2 net8 VSS) nmos4
M3 (VOUT1 VOUT2 VSS VSS) nmos4
M0 (VOUT2 VOUT1 VSS VSS) nmos4
L1 (VIN1 VOUT2) inductor
L0 (VIN1 VOUT1) inductor
C0 (net8 VSS) capacitor
R0 (net017 net8) resistor
I4 (VIN1 VOUT2 VDD VSS net017) XOR